US03950393
11 gm of 2-amino-3-bromo-5-cyano-N,N-diethyl-benzylamine were refluxed with a mixture of 70 ml of ethanol and 100 ml of 5 N sodium hydroxide. After cooling, the reaction solution was diluted with 100 ml of water and extracted with chloroform. The chloroform extract was dried over sodium sulfate and evaporated, and the residue was recrystallized from isopropanol, yielding 2-amino-3-bromo-5-carbamoyl-N,N-diethyl-benzylamine, m.p. 140°-142°C.

reactant | 2-amino-3-bromo-5-cyano-N,N-diethyl-benzylamine | 11 gm | NC1=C(CN(CC)CC)C=C(C=C1Br)C#N | C12H16BrN3
reactant | ethanol | 70 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 5 N, 100 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 2-amino-3-bromo-5-carbamoyl-N,N-diethyl-benzylamine | NC1=C(CN(CC)CC)C=C(C=C1Br)C(N)=O | C12H18BrN3O
